US04675324
A solution of methanesulfonyl chloride (2.004 g) in methylene chloride (5 ml) was added dropwise to a solution of 6-amino-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (1.526 g) and triethylamine (2.121 g) in methylene chloride (15 ml) with ice cooling over a period of 15 minutes and stirred for further 1 hour. The mixture was diluted with chloroform, washed successively with 10% hydrochloric acid, water, and brine, dried over magnesium sulfate, and evaporated in vacuo. The residual solid was washed with methanol and dried to give 6-(N,N-dimesylamino)-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (2.51 g).

reactant | methanesulfonyl chloride | 2.004 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-amino-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 1.526 g | NC=1C=C2C(CCN(C2=CC1)C(CC)=O)=O | C12H14N2O2
reactant | triethylamine | 2.121 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-(N,N-dimesylamino)-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 2.51 g | S(=O)(=O)(C)N(S(=O)(=O)C)C=1C=C2C(CCN(C2=CC1)C(CC)=O)=O | C14H18N2O6S2
